data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5043,"CC(=O)O.CC(C)C1CC2CC3CC2C1CC3(C)[N:1]=CO.O=S(=O)(O)[O:2][H:3].[Na+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,341,"[H:1][OH2+:2].[Li][O:3]C(CCC(C)=O)(C1=CC=CC=C1)C1=CC=CC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9025,"CC[O-:1].CO[C:2](C(C)C)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,768,"CCOC(=O)C1(C(=O)OCC)C(C)CCC2(C#N)C1CC(=O)C[C:1]2([O-:2])[O:3]CC.CO|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2426,"CC(C1OC1(C)C)[O-:1].O.[Na][OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1838,"CC(C)=CC=C1C(=O)CCCC1=[O+:1][H:2].CC[NH:3]CC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3667,"C1CO[C:1]([NH3+:2])([OH:3])O1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2805,"CC[N+](CC)=S(F)[O:1][CH2:2]C.F.[F-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3116,"CC1=CC=C(S(=O)(=O)OC(C)CC[CH:1]([N-:2]C)[O:3][AlH2])C=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,10177,"CN(C)[CH+:1][SH:2]|(2, 1)"
train,pmechdb_split_0,0,3620,"CN[C:1]([CH2:2][H:3])=[O:4].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,7914,"CS(=O)(=O)[O:1][H:2].C[Si](C)(C)C[CH:3]=[CH2:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,8952,"CC[OH:1].C[C:2](N)=[OH+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5023,"OP(O)(O)(Cl)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6685,"CO.O=C(CC1CCCC[C:1]1=[O:2])C1=CC=C(Cl)C=C1.[NH3:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10081,"CCCC1=CC=C([O+](C)[B-:1](Br)(Br)[Br:2])C=C1|((1, 2), 2)"
train,pmechdb_split_0,0,8550,"C1C[CH:1]([H:2])[C:3](=[O:4])C1.[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4780,"C=[C:1]([CH-:2]C(=O)OCC)[P+:3](CC)(CC)CC|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4705,"CCCC1C(CC)C(CC)C(C)C([S-:1])C1C(C)CC.C[N+:2]1(CCCl)C[CH2:3]1.[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6428,"C1C[O:1]1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3508,"B.CC1(C)OC(C(CO)OCC2=CC=CC=C2)C(C(C[O-:1])OCC2=CC=CC=C2)O1.C[O:2][H:3].[Na+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7811,"C=CC[Si:1]1(Cl)N(C)CCN1C.CC=[O:2]|(2, 1)"
train,pmechdb_split_0,0,4834,"C1CCC2=[NH+]CCCN2CC1.COC(=O)[C:1](C[CH:2](C(=O)OC)[Br:3])=[C:4](C)[O-:5]|(5, 4);((4, 1), 2);((2, 3), 3)"
train,pmechdb_split_0,0,4096,"CC(C1=CC=CC=C1)C(C)(C)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9692,"Br[C-:1](Br)Br.Br[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.COC(=O)CCCC#CCC#CC[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1200,"CN(C)C1=CC=[N:1]C=C1.O=C(C1=CC=CC=C1)[CH2:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8639,"C=[O+:1][CH2:2]C[Si](C)(C)C|((2, 1), 1)"
train,pmechdb_split_0,0,6427,"CC12CCC(C1)C(C)(C)C2(C1=C(N)C=C(Cl)C=C1)[O:1]C.[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8585,"CC1=C(CCO)SC=[N+]1CC1=CC=C(CC[N+:1]2=[C:2]([C:3](O)(CCCOCC3=CC=CC=C3)[H:4])SC(CCO)=C2C)C=C1.CCO.CC[N:5](CC)CC.O=C(C=CC1=CC=CC=C1)C1=CC=CC=C1.O=C(C=CC1=CC=CO1)C1=NC=CC=C1.[Br-]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,3887,"CC(C)CC1CC(C)CC[C:1]1([H:2])[O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C.CC(C)[O-]|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,378,"CC1C=C([O+]([Si](C)(C)C)[Zn:1][I])CC(I)CC1.[I-:2]|(2, 1)"
train,pmechdb_split_0,0,8306,"C[C:1](C)([OH:2])[SH+:3]CCS|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6742,"CCOC(=O)[N-:1][N:2](C(=O)OCC)[P+:3](CC)(CC)CC|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1857,"CCNC(CCC(=O)OC(C)=O)=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2419,"C1=CC=[N:1]C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CCOC(=O)C12CCC(CC1=[N+:2](CC1=CC=CC=C1)[H:3])C2(C)C.O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5267,"C[C:1](=[O:2])[CH:3]=[CH:4]CCC(SC1=CC=CC=C1)[CH:5]=[C:6](C)[O-:7].O.[K+]|(7, 6);((6, 5), 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2050,"C1=CC=C(C[OH:1])C=C1.C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCCCCCCC=CCCCCCCC[C:2](O)=[OH+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7349,"COC12OCCC1(C1=CC=CC=C1)C1=C(C=CC=C1)[O:1]2.C[OH+:2][H:3].[Br-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9566,"O=C(O)NC(=C([N+](=O)[O-])[N+](=O)[O-])[NH2+:1][C:2](=O)[O-:3].O=S(=O)(O)O.O=[N+]([O-])C[N+](=O)[O-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2749,"COC1=CC=C([CH:1]=[O:2])C=C1.Cl[CH:3]=[C:4](OC1CCCCC1C1=CC=CC=C1)[O-:5].[H][H].[Na+]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1513,"Cl[C:1](OCC1=CC=CC=C1)=[O:2].[NH3:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4568,"CC1C=C([O:1][Zn][I])CC(I)CC1.C[Si:2](C)(C)I|(1, 2)"
train,pmechdb_split_0,0,7516,"C[CH:1]=[O+:2]C.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3411,"C#CCCC12C[CH:1]=[C:2]([O-:3])C=C1CCC2C.CO.C[Si](C)(C)[O:4][H:5].[OH][K]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,4372,"O=C1NC2=C(NCC3=CC(Br)=C(O)C(Br)=C3)[NH:1][CH:2]([OH:3])N=C2N1C1OC(CO)C(O)C1O.[Br-].[OH-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8444,"C=C1CCC2CCCC3O[C:1](C)(C)[O+:2]([Si](C)(C)C)C123.O=S(=O)([O-])C(F)(F)F|((1, 2), 2)"
